US06562989B2
N-(4-methoxycarbonylphenyl)-n-hexylamine (Table 9, Entry 1)
According to the general procedure B, Methyl 4-chlorobenzoate (85 mg, 0.50 mmol) reacted with n-hexylamine (80 μl, 0.60 mmol) using 2 mol % of Pd(dba)2, 4 mol % of Ph5FcP(t-Bu)2, K3PO4 (260 mg, 1.23 mmol) in toluene at 100° C. for 20 h to give the title compound (101 mg, 86%) as a solid: 1H-NMR (500 MHz, CDCl3): δ 7.90 (d, 2H, J=8.8 Hz), 6.54 (d, 2H, J=8.8 Hz), 4.17 (bs, 1H), 3.85 (s, 3H, —COOMe), 3.15 (dd, 2H, J=7.0 and 12.3 Hz), 1.62 (m, 2H), 1.40 (m, 2H), 1.32 (m, 2H), 0.91 (t, 3H, J=6.9 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 167.31, 152.13, 131.47, 117.85, 111.22, 51.38, 43.30, 31.50, 29.21, 26.68, 22.52, 13.94. GC/MS(EI): m/z 235 (M+), 164. Anal. Calcd for C14H21NO2: C, 71.46; H, 8.99; N, 5.95. Found: C, 71.54; H, 8.84; N, 5.79.

reactant | Methyl 4-chlorobenzoate | 0.50 mmol, 85 mg | ClC1=CC=C(C(=O)OC)C=C1 | C8H7ClO2
reactant | n-hexylamine | 0.60 mmol, 80 μl | C(CCCCC)N | C6H15N
reactant | K3PO4 | 1.23 mmol, 260 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-(4-methoxycarbonylphenyl)-n-hexylamine | 101 mg, 86% | COC(=O)C1=CC=C(C=C1)NCCCCCC | C14H21NO2
